US05849759
DEAD (0.60 mL, 3.80 mmol) was added to a solution of 1-tert-butoxycarbonyl-6-hydroxy-2-isopropylbenzimidazole (690 mg, 2.30 mmol), 1-tert-butoxycarbonyl-4-hydroxypiperidine (925 mg, 4.60 mmol), triphenylphosphine (904 mg, 3.45 mmol) and THF (5 mL) at 25° C. After stirring for 12 hours, the solvent was removed in vacuo. Chromatography (SiO2, 100 g) of the resulting oil with hexane/ethyl acetate (1:1) afforded 1-tert-butoxycarbonyl-6-(N-(tert-butoxycarbonyl)piperidin-4-yloxy)-2-isopropylbenzimidazole.

reactant | DEAD | 3.80 mmol, 0.60 mL | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | 1-tert-butoxycarbonyl-6-hydroxy-2-isopropylbenzimidazole | 2.30 mmol, 690 mg | C(C)(C)(C)OC(=O)N1C(=NC2=C1C=C(C=C2)O)C(C)C | C15H20N2O3
reactant | 1-tert-butoxycarbonyl-4-hydroxypiperidine | 4.60 mmol, 925 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)O | C10H19NO3
reactant | triphenylphosphine | 3.45 mmol, 904 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 1-tert-butoxycarbonyl-6-(N-(tert-butoxycarbonyl)piperidin-4-yloxy)-2-isopropylbenzimidazole | C(C)(C)(C)OC(=O)N1C(=NC2=C1C=C(C=C2)OC2CCN(CC2)C(=O)OC(C)(C)C)C(C)C | C25H37N3O5
